US06211234B1
A mixture of ethyl 2,4-dibenzyloxyphenoxyacetate (2 g), 10% w/v potassium hydroxide (10 mL) and methanol (50 mL) is stirred at ambient temperature for 1 hour. The reaction is concentrated in vacuo and acidified with 1 N HCL then extracted with ethyl acetate (2×100 mL). The organic layer is washed with water (2×100 mL), dried over magnesium sulphate, filtered and concentrated in vacuo to give a white powder. Recrystallisation from ethyl acetate/cyclohexane affords 2,4-dibenzyloxyphenoxyacetic acid (0.4 g) as a white solid, m.p. 72° C. [Elemental Analysis:- C, 72.4, H, 5.50% Calculated for C, 72.5H, 5.53%].

reactant | ethyl 2,4-dibenzyloxyphenoxyacetate | 2 g | C(C1=CC=CC=C1)OC1=C(OCC(=O)OCC)C=CC(=C1)OCC1=CC=CC=C1 | C24H24O5
reactant | potassium hydroxide | 10 mL | [OH-].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 2,4-dibenzyloxyphenoxyacetic acid | 0.4 g | C(C1=CC=CC=C1)OC1=C(OCC(=O)O)C=CC(=C1)OCC1=CC=CC=C1 | C22H20O5
